US06743785B2
N-[tert-butoxycarbonyl]N-allyl N-[(1-allyl-1H-indol-7-yl)methyl]amine
To a 0° C. solution of N-[tert-butoxycarbonyl]N-allyl N-[(1H-indol-7-yl)methyl]amine (6.6 g, 23 mmol) in anhydrous dimethylformamide was added slowly sodium hydride (60% dispersion in mineral oil, 1.75 g, 43.7 mmol). The mixture was warmed to 20-24° C. and stirred for 30 minutes, followed by the addition of allyl bromide (4.0 mL, 46 mmol). The reaction was then stirred at 20-24° C. overnight. The reaction mixture was diluted with ethyl acetate (450 mL), washed with water (2×100 mL), saturated aqueous sodium chloride (150 mL), and the organic layer dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 10% ethyl acetate in hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 6.8 g (91%) of the desired compound as a light brown oil.

reactant | N-[tert-butoxycarbonyl]N-allyl N-[(1H-indol-7-yl)methyl]amine | 23 mmol, 6.6 g | C(C)(C)(C)OC(=O)N(CC=1C=CC=C2C=CNC12)CC=C | C17H22N2O2
reactant | sodium hydride | 43.7 mmol, 1.75 g | [H-].[Na+]
reactant | allyl bromide | 46 mmol, 4.0 mL | C(C=C)Br | C3H5Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 450 mL | C(C)(=O)OCC | C4H8O2
product | N-[tert-butoxycarbonyl]N-allyl N-[(1-allyl-1H-indol-7-yl)methyl]amine | 6.8 g, 91% | C(C)(C)(C)OC(=O)N(CC=1C=CC=C2C=CN(C12)CC=C)CC=C | C20H26N2O2
